US05164391
To thionyl chloride (24.9 ml, 3.57 mol) was added (2S,4S)-6-fluoro-2',5'-dioxospiro[chroman-4,4'-imidazolidine]-2-carboxylic acid (20.0 g, 71.4 mmol). After refluxing the mixture under argon atmosphere for 22 hours, the excess thionyl chloride was evaporated in vacuo to dryness to give quantitatively crude crystals of (2S,4S)-6-fluoro-2',5'-dioxospiro[chroman-4,4'-imidazolidine]-2-carbonyl chloride.

reactant | thionyl chloride | 3.57 mol, 24.9 ml | S(=O)(Cl)Cl | Cl2OS
reactant | (2S,4S)-6-fluoro-2',5'-dioxospiro[chroman-4,4'-imidazolidine]-2-carboxylic acid | 71.4 mmol, 20.0 g | FC=1C=C2C(=CC1)O[C@@H](C[C@]21NC(NC1=O)=O)C(=O)O | C12H9FN2O5
product | (2S,4S)-6-fluoro-2',5'-dioxospiro[chroman-4,4'-imidazolidine]-2-carbonyl chloride | FC=1C=C2C(=CC1)O[C@@H](C[C@]21NC(NC1=O)=O)C(=O)Cl | C12H8ClFN2O4
